Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ ADMIT NOTE
time pt seen & examined: ~6:15am

cc: abdominal pain, melena

PCP: ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man whose PMH includes GERD, diverticulosis, and colonic 
polyps, presents with abdominal pain and melena. Had one episode 
melena around 2:30pm on ___ followed by severe abdominal pain 
after dinner. Also had ___ alcoholic drinks in the 24h preceding 
onset of pain. Pain felt like gas pain, tried to have BM but 
unable. Pain progressively worsened in periumbilical area and 
was associated with right shoulder pain and nausea, no emesis. 
Had similar pain approximately 2 weeks ago but not as severe, 
resolved spontaneously. Further questioning reveals he has had 
intermittent abd pain over last month, which he attributed to Ca 
supplements. No unintentional weight loss in last month but 
reports poor appetite since RLE surgery in ___. Denies 
NSAID use since ___, except one dose naproxen on ___. No CP, 
palpitations, SOB, dizziness/lightheadedness, F/C. Passed flatus 
during interview and felt some relief, but pain still at 6 out 
of 10.

In the ED, vitals were 97.9 80 132/93 16 99% RA. Stool was 
guaiac positive. Hct 51.5 (last 48.8 on ___. Two large-bore 
IVs were placed and he was given IVF 1L bolus as well as 
pantoprazole 80mg IV. T&C for 2units. He was admitted to 
Medicine for further evaluation and mgmt. 

On the medical floor, he reports ongoing periumbilical abdominal 
pain radiating up to epigastrium and right shoulder. No further 
nausea. Feels bloated and uncomfortable like he needs to have a 
BM or pass gas. No other c/o, ROS otherwise noncontributory. 
 
Past Medical History:
# diverticulosis
# colorectal polyps (2 tubular adenomas, 1 hyperplastic) by 
colonoscopy ___
# GERD
# hyperlipidemia
# gout
# s/p motor vehicle accident ___ with open right tibia 
fracture, s/p ORIF, s/p removal hardware ___
# vitamin D deficiency treated with 50k units weekly x8wks 
(ended ___
# s/p bilateral inguinal hernia repair ___
 
Social History:
___
Family History:
mother with colon ca, died age ___
paternal side heart disease & COPD, father died of MI with lung 
ca
brother healthy
 
Physical ___:
VS: afeb 163/93 55 99% RA
GEN:  NAD, well-appeaaring
EYES: conjunctiva clear anicteric
ENT: moist mucous membranes
NECK: supple
CV:   RRR s1s2
PULM: CTA
GI:  hyperactive BS, nondistended, nontender to deep palpation
EXT: warm, no edema
PEDAL PULSES: 2+
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, normal gait
PSYCH:  appropriate, pleasant  
ACCESS: PIV x2  
FOLEY:  none

 
Pertinent Results:
Admission Labs:
___ 01:10AM   WBC-10.7 RBC-5.55 HGB-17.7 HCT-51.5 MCV-93 
MCH-31.9 MCHC-34.4 RDW-13.9
___ 01:10AM   PLT COUNT-204
___ 01:10AM   NEUTS-82.3* LYMPHS-12.4* MONOS-4.6 EOS-0.3 
BASOS-0.4
___ 01:10AM   GLUCOSE-129* UREA N-16 CREAT-1.3* (baseline 
1.2-1.3 per Atrius records) SODIUM-142 POTASSIUM-4.4 
CHLORIDE-103 TOTAL CO2-27 ANION GAP-16
___ 01:10AM   ALT(SGPT)-49* AST(SGOT)-39 ALK PHOS-105 TOT 
BILI-0.2
___ 01:10AM   LIPASE-38

EKG reviewed: sinus with no acute ischemic changes

Discharge Labs:
___ 01:00PM BLOOD WBC-9.3 RBC-5.27 Hgb-16.2 Hct-49.1 MCV-93 
MCH-30.9 MCHC-33.1 RDW-13.8 Plt ___SSESSMENT & PLAN

# MELENA/ABDOMINAL PAIN: Unclear if abd pain and melena are 
related. Likely hemorrhoidal bleed vs. mild/slow UGIB with Ddx 
including PUD, gastritis secondary to recent EtOH, AVMs; less 
likely LGIB secondary to known diverticulosis. Possible ileus 
secondary to above given exam. Clinically stable with Hct 51 
which remained stable on repeat check; repeat guaiac following 
admission negative. Pain improved transiently with enema and 
small bowel movement. He was able to tolerate a regular diet 
prior to discharge without exacerbation of his pain.

# MRI finding: RUQ U/S without evidence of biliary disease, but 
per radiology did reveal a "1.8 cm hypoechoic lesion within the 
right liver. A possible smaller similar-appearing lesion may 
also be seen in the right liver. If not previously evaluated, an 
MRI can be obtained for further evaluation." Further imaging 
deferred to the outpatient setting.
 
# GERD: on PPI as above

# hyperlipidemia: stable, continued statin

# gout: stable, currently not on colchicine

# vitamin D deficiency: resolved per pt

# DVT PROPHYLAXIS:  SCDs

# CODE STATUS: full

 
Medications on Admission:
colchicine (COLCRYS) 0.6 mg X3 doses over2 hrs if needed
tadalafil (CIALIS) 20 mg Take 1 tablet as instructed 1 hour 
before sex (none in last month) 
PREVACID 30 mg Oral capsule, delayed ___ TAKE 1 
CAPSULE TWICE A DAY AS NEEDED (prevacid) brand name only ___ 
one daily plus a second dose prn)
oxyCODONE 5 mg Oral tablet take 1 to 2 tablets EVERY FOUR TO SIX 
HOURS AS NEEDED for post-op pain (has taken 2 tabs in last 
month)
simvastatin 20 mg Oral tablet take 1 tablet every evening for 
cholesterol 
colace 100mg po QD prn constipation

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain for which 
a clear cause was not found. Your diet was able to be advanced 
without difficulty. Please follow-up with your primary care 
physician for further evaluation.
 
Followup Instructions:
___